US08202858B2
(3-Chloro-7,8-dihydro-6H-5-oxa-9-aza-benzocyclohepten-9-yl)-phenyl-methanone
N-(4-Chloro-2-hydroxy-phenyl)-benzamide from Example E25.1 (1.0 g, 4 mmol) was dissolved in acetonitrile (10 ml) and dichloromethane (15 ml). 1,3-Dibromopropane (3.26 g, 16 mmol), aliquat 336 (170 mg, 0.4 mmol) and sodium hydroxide (750 mg, 16 mmol) were added and the mixture was heated at 60° C. for 3 h. The solid was filtered off and the filtrate concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 30% EtOAc:70% hexane) to yield the title compound (783 mg, 83%).

reactant | N-(4-Chloro-2-hydroxy-phenyl)-benzamide | ClC1=CC(=C(C=C1)NC(C1=CC=CC=C1)=O)O | C13H10ClNO2
reactant | 1,3-Dibromopropane | 16 mmol, 3.26 g | BrCCCBr | C3H6Br2
reactant | sodium hydroxide | 16 mmol, 750 mg | [OH-].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | aliquat 336 | 0.4 mmol, 170 mg | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | (3-Chloro-7,8-dihydro-6H-5-oxa-9-aza-benzocyclohepten-9-yl)-phenyl-methanone | 783 mg, 83% | ClC1=CC2=C(N(CCCO2)C(=O)C2=CC=CC=C2)C=C1 | C16H14ClNO2
